US07732626B2
4-bromo-2-fluoro-3,5-dimethylphenol
To a solution of 4-bromo-3,5-dimethylphenol (2.00 g, 9.95 mmol) in 1,2-dichloroethane (20 mL) was added N-fluoropyridinium triflate (6.15 g, 24.9 mmol), and the mixture was heated under reflux for 7 hr. The reaction mixture was treated with 1 M aqueous sodium thiosulfate solution, and extracted with ethyl acetate. The extract was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=0:100-30:70) to give the title compound (0.790 g, yield 36%) as a colorless oil.

reactant | 4-bromo-3,5-dimethylphenol | 9.95 mmol, 2.00 g | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | N-fluoropyridinium triflate | 24.9 mmol, 6.15 g | [O-]S(=O)(=O)C(F)(F)F.F[N+]1=CC=CC=C1
reactant | sodium thiosulfate | 1 M | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 4-bromo-2-fluoro-3,5-dimethylphenol | 0.790 g, yield 36% | BrC1=C(C(=C(C=C1C)O)F)C | C8H8BrFO
